US07699922B2
toluene diisocyanate (TDI);
diphenylmethane-4,4′-diisocyanate (MDI); hydrogenated diphenylmethane-4,4′-diisocyanate (H12MDI); tetra-methyl xylene diisocyanate (TMXDI); hexamethylene-1,6-diisocyanate (HDI), of the formula OCN—(CH2)6—NCO naphthalene-1,5-diisocyanate; 3,3′-dimethoxy-4,4′-biphenyldiisocyanate; 3,3′-dimethyl-4,4′-bimethyl-4,4′-biphenyldiisocyanate; phenylene diisocyanate; 4,4′-biphenyldiisocyanate; 2,2,4-trimethylhexamethylene diisocyanate and 2,4,4-trimethylhexamethylene diisocyanate, of the formulae

reactant | diphenylmethane-4,4′-diisocyanate | C1=CC(=CC=C1CC2=CC=C(C=C2)N=C=O)N=C=O | C15H10N2O2
reactant | tetra-methyl xylene diisocyanate | [N-]=C=O.[N-]=C=O.CC=1C(=C(C(=C(C1C)C)C)C)C
reactant | 3,3′-dimethoxy-4,4′-biphenyldiisocyanate | [N-]=C=O.[N-]=C=O.COC=1C=CC=CC1C1=C(C=CC=C1)OC
reactant | phenylene diisocyanate | C=1(C(=CC=CC1)N=C=O)N=C=O | C8H4N2O2
reactant | 4,4′-biphenyldiisocyanate | [N-]=C=O.[N-]=C=O.C1=CC=C(C=C1)C1=CC=CC=C1
reactant | 2,2,4-trimethylhexamethylene diisocyanate | CC(CN=C=O)(CC(CCN=C=O)C)C | C11H18N2O2
reactant | 2,4,4-trimethylhexamethylene diisocyanate | CC(CN=C=O)CC(CCN=C=O)(C)C | C11H18N2O2
product | toluene diisocyanate | CC=1C(N=C=O)=CC(N=C=O)=CC1 | C9H6N2O2
